* C:\Users\bismi\OneDrive\Documents\Senior Design\Spice Models\555Timer.asc
XU1 0 N001 OUT VCC N002 OUT NC_01 VCC NE555
C1 N002 0 .01µ
C2 OUT 0 10p
V1 VCC 0 3.7
R1 N001 OUT 20k
R2 VCC OUT 100k
.tran 0 1000n 0 1n
.lib NE555.sub
.backanno
.end
