* C:\Users\hibin\Documents\Senior Design\Spice\SpiceModels\WPT.asc
* Generated by LTspice 24.1.4 for Windows.
X§X1 NC_01 VCC 555Timer
C1 N003 N002 .1n
R1 N003 0 1k
R4 N001 N003 1k
R5 Sine N001 68k
X§U1 0 N001 9V -9V Sine OPAx197
V1 9V 0 9
V2 0 -9V 9
V3 N002 0 SINE(0 0 0) AC 1

* block symbol definitions
.subckt 555Timer OUT VCC
V1 VCC 0 4
R1 VCC N002 50
R2 N002 N001 10k
C1 N001 0 .1n
C3 VCC 0 1µ V=50 Irms=13m Rser=2.3363 Lser=3.377n mfg="Würth Elektronik" pn="860020672005 WCAP-ATG5 5x11" type="Al electrolytic"
X§U1 0 N001 OUT VCC N003 N001 N002 VCC NE555
C2 N003 0 .01µ
.ends 555Timer

* .tran 0 20u 10u 1n
.ac dec 10 10k 1meg
.lib C:\Users\hibin\Documents\Senior Design\Spice\SpiceModels\OPAx197.LIB
.lib NE555.sub
.backanno
.end
